One-Dimensional Diode Simulation

* Several simulations are performed by this file.
* They are:
*   1. An operating point at 0.7v forward bias.
*   2. An ac analysis at 0.7v forward bias.
*   3. The forward and reverse bias characteristics from -3v to 2v.

Vpp 1 0 0.7v (PWL 0ns 3.0v 0.01ns -6.0v) (AC 1v)
Vnn 2 0 0v
D1  1 2 M_PN AREA=100

.model M_PN numd level=1
+ ***************************************
+ *** One-Dimensional Numerical Diode ***
+ ***************************************
+ options defa=1p
+ x.mesh loc=0.0 n=1
+ x.mesh loc=1.3 n=201
+ domain   num=1 material=1
+ material num=1 silicon
+ mobility mat=1 concmod=ct fieldmod=ct
+ doping gauss p.type conc=1e20 x.l=0.0  x.h=0.0 char.l=0.100
+ doping unif  n.type conc=1e16 x.l=0.0  x.h=1.3
+ doping gauss n.type conc=5e19 x.l=1.3  x.h=1.3 char.l=0.100 
+ models bgn aval srh auger conctau concmob fieldmob
+ method ac=direct

.option acct bypass=0 abstol=1e-18 itl2=100
*.op
.ac dec 10 100kHz 10gHz
*.dc Vpp -3.0v 2.0001v 50mv
*.print i(Vpp)

.control
run
quit
.endc

.END
